US08957074B2
Following general N—C coupling procedure 1, 2-(6-Amino-pyridin-3-yl)-hexahydro-pyrido[1,2-a]pyrazin-1-one (0.060 g, 0.244 mmol) was combined with 2-Chloro-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.075 g, 0.244 mmol, 1.0 eq) which gave 7-Cyclohexyl-2-[5-(1-oxo-octahydro-pyrido[1,2-a]pyrazin-2-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.020 g, 0.039 mmol) in 16% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.19-1.41 (m, 6H) 1.41-1.52 (m, 5H) 1.61-1.75 (m, 4H) 1.93 (br. s., 9H) 2.21 (td, J=11.37, 3.54 Hz, 2H) 2.40 (br. s., 2H) 2.52-2.81 (m, 7H) 2.93-3.05 (m, 4H) 3.16 (s, 11H) 3.47 (dd, J=11.37, 2.78 Hz, 2H) 3.93-4.09 (m, 2H) 4.26-4.42 (m, 2H) 6.44 (s, 2H) 7.68 (dd, J=8.84, 2.78 Hz, 2H) 8.00 (s, 2H) 8.23 (d, J=2.02 Hz, 2H) 8.63 (d, J=9.09 Hz, 2H) 8.71 (s, 2H) HRMS calc for m/z=517.3039. Found m/z=517.3046 (M+H)

reactant | 2-(6-Amino-pyridin-3-yl)-hexahydro-pyrido[1,2-a]pyrazin-1-one | 0.244 mmol, 0.060 g | NC1=CC=C(C=N1)N1C(C2N(CC1)CCCC2)=O | C13H18N4O
reactant | 2-Chloro-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.244 mmol, 0.075 g, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCCC1)C | C15H19ClN4O
product | 7-Cyclohexyl-2-[5-(1-oxo-octahydro-pyrido[1,2-a]pyrazin-2-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.039 mmol, 0.020 g, 16% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C(C3N(CC2)CCCC3)=O)N1C1CCCCC1)C | C28H36N8O2
